US05246948
Synthesis of 4-[3-(propionylamino)propylthio]-pyridine
To a solution of 700 mg (2.90 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 1.62 ml (11.6 mmol) of triethylamine in 30 ml of methylene chloride was added 0.30 ml (3.48 mmol) of propionyl chloride and the mixture was stirred at room temperature for 30 minutes. The reaction solution was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ethyl acetate=1:10) to obtain the powder which was washed with ether and dried to obtain 483 mg of the desired compound (74.2%, yellow prisms), mp: 50.0°-51.0° C.

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 2.90 mmol, 700 mg | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 11.6 mmol, 1.62 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 3.48 mmol, 0.30 ml | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(propionylamino)propylthio]-pyridine | 483 mg, 74.2% | C(CC)(=O)NCCCSC1=CC=NC=C1 | C11H16N2OS
